US07683064B2
Methyl-3-(5-morpholin-4-ylmethyl-pyridin-2-ylamino)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyridin-2-one (96 mg, 0.25 mmol), 2-[2-(tert-butyl-dimethyl-silanyloxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one (124 mg, 0.233 mmol), 2 mL dioxane, and a 0.86 mg/μL solution of cesium carbonate in water (450 μL, 1.2 mmol) were charged into a 4 mL reaction vial fitted with a stir bar and septum. Sparged mixture with nitrogen for 5 min. Added [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride 1:1 complex with dichloromethane (10 mg, 0.012 mmol). The reaction was sparged with nitrogen for 5 min. Sealed the vial and stirred at 90° 16 hr. Cooled to room temperature and filtered the reaction mixture through a 300 mg C18 cartridge. Washed the cartridge with 4 mL EtOAc, 4 mL water, and 4 mL EtOAc. Separated filtrate phases and washed the organic phase with 5 mL of water and 5 mL of brine. Dried the solution over Na2SO4 and concentrated in vacuo. Purified by C18 reverse phase flash chromatography (gradient elution, 10 to 95% acetonitrile+0.1% TFA/water+0.1% TFA). Added 1 mL of saturated NaHCO3 to the pooled product fractions and concentrated in vacuo. Extracted the remaining aqueous mixture with 2×10 mL CH2Cl2, dried over Na2SO4, and concentrated in vacuo to obtain 6-Cyclopropyl-2-{2-hydroxymethyl-3-[1-methyl-5-(5-morpholin-4-ylmethyl-pyridin-2-ylamino)-6-oxo-1,6-dihydro-pyridin-3-yl]-phenyl}-2H-isoquinolin-1-one as an off-white solid. (73 mg, 0.12 mmol). MS (ESI) 590 (M+H)+.

reactant | Methyl-3-(5-morpholin-4-ylmethyl-pyridin-2-ylamino)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyridin-2-one | 0.25 mmol, 96 mg | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=C(C=C1)CN1CCOCC1)=O | C22H31BN4O4
reactant | 2-[2-(tert-butyl-dimethyl-silanyloxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one | 0.233 mmol, 124 mg | C(C)(C)(C)[SiH2]OC(C1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N1C(C2=CC=C(C=C2C=C1)C1CC1)=O)(C)C | C31H42BNO4Si
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1.2 mmol, 450 μL | O | H2O
reactant | dichloromethane | 0.012 mmol, 10 mg | ClCCl | CH2Cl2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-Cyclopropyl-2-{2-hydroxymethyl-3-[1-methyl-5-(5-morpholin-4-ylmethyl-pyridin-2-ylamino)-6-oxo-1,6-dihydro-pyridin-3-yl]-phenyl}-2H-isoquinolin-1-one | C1(CC1)C=1C=C2C=CN(C(C2=CC1)=O)C1=C(C(=CC=C1)C1=CN(C(C(=C1)NC1=NC=C(C=C1)CN1CCOCC1)=O)C)CO | C35H35N5O4
